US08193228B2
Bis(triphenylphosphine) palladium (II) chloride (49 mg, 0.07 mmol) was added to a degassed, ambient temperature solution of 1-methyl-5-(tributylstannyl)-1H-pyrazole (259 mg, 0.70 mmol) and 2-(4-bromophenyl)-3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1-difluoropropan-2-ol (483 mg, 0.77 mmol) in tetrahydrofuran (15 mL). After stirring at 75° C. overnight, the reaction mixture was cooled and cesium fluoride (50% on celite) was added. After stirring vigorously at ambient temperature for 1 h, the reaction mixture was filtered, rinsing with ethyl acetate. The filtrate was washed with water, dried (magnesium sulfate), filtered and concentrated in vacuo. Chromatography over silica eluting with 0-100% ethyl acetate/hexane afforded 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1-difluoro-2-[4-(1-methyl-1H-pyrazol-5-yl)phenyl]propan-2-ol.

reactant | 1-methyl-5-(tributylstannyl)-1H-pyrazole | 0.70 mmol, 259 mg | CN1N=CC=C1[Sn](CCCC)(CCCC)CCCC
reactant | 2-(4-bromophenyl)-3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1-difluoropropan-2-ol | 0.77 mmol, 483 mg | BrC1=CC=C(C=C1)C(C(F)F)(CC=1N(C=C(N1)CC(C)(C)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C36H35BrF2N2O
reactant | cesium fluoride | [F-].[Cs+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
catalyst | Bis(triphenylphosphine) palladium (II) chloride | 0.07 mmol, 49 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-[4-(2,2-dimethylpropyl)-1-trityl-1H-imidazol-2-yl]-1,1-difluoro-2-[4-(1-methyl-1H-pyrazol-5-yl)phenyl]propan-2-ol | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C(F)F)(O)C1=CC=C(C=C1)C1=CC=NN1C)(C)C | C40H40F2N4O
